US04875924
1-(4-Trifluoromethoxyphenyl)-1,4-dihydro-4-oxo-5-fluorocinnoline-3-carboxylic acid (368 mg), thionyl chloride (179 mg) and pyridine (50 mg) were dissolved in toluene (10 ml), and the obtained solution was heated under reflux for 2 hours. After being allowed to cool to room temperature, the resultant mixture was added dropwise to a solution which was obtained by dissolving diethylamine (146 mg) and triethylamine (152 mg) in ethyl acetate (10 ml). The obtained mixture was stirred at room temperature for 3 hours, and was allowed to stand overnight. After the reaction solution was poured into diluted hydrochloric acid (30 ml) to which ice was added, the resultant mixture was extracted two times with ethyl acetate (20 ml). The organic layer was washed with a saturated aqueous sodium bicarbonate (10 ml), a saturated saline water (10 ml), and then dried over anhydrous magnesium sulfate, and was concentrated. The residue was purified by silica gel column chromatography (eluent: n-hexane-acetone) to give 143 mg of desired N,N-diethyl-1 -(4-trifluoromethoxyphenyl)-1,4-dihydro-4-oxo-5-fluorocinnoline-3-carboxyamide (yield: 33.8%). m.p., 118.5° C.

reactant | 1-(4-Trifluoromethoxyphenyl)-1,4-dihydro-4-oxo-5-fluorocinnoline-3-carboxylic acid | 368 mg | FC(OC1=CC=C(C=C1)N1N=C(C(C2=C(C=CC=C12)F)=O)C(=O)O)(F)F | C16H8F4N2O4
reactant | thionyl chloride | 179 mg | S(=O)(Cl)Cl | Cl2OS
reactant | diethylamine | 146 mg | C(C)NCC | C4H11N
reactant | hydrochloric acid | 30 ml | Cl | ClH
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 152 mg | C(C)N(CC)CC | C6H15N
solvent | pyridine | 50 mg | N1=CC=CC=C1 | C5H5N
product | N,N-diethyl-1 -(4-trifluoromethoxyphenyl)-1,4-dihydro-4-oxo-5-fluorocinnoline-3-carboxyamide | 143 mg, yield: 33.8% | C(C)N(C(=O)CC1=NN(C2=CC=CC(=C2C1=O)F)C1=CC=C(C=C1)OC(F)(F)F)CC | C21H19F4N3O3
